US05488055
A mixture of 2,5-dibromobenzoic acid (25 g, 0.09 mol), DMF (200 ml), 5-amino-1-ethylpyrazole (10 g, 0.09 mol), Cu(OAc)2 (1 g) and K2CO3 (12.3 g, 0.09 mol) was heated at reflux for about 2 days. The reaction mixture was poured into water, acidified with acetic acid and the precipitate which formed was collected by filtration to afford 12.6 g of N-(1-ethylpyrazol-5-yl)-5-bromoanthranilic acid.

reactant | 2,5-dibromobenzoic acid | 0.09 mol, 25 g | BrC1=C(C(=O)O)C=C(C=C1)Br | C7H4Br2O2
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
reactant | 5-amino-1-ethylpyrazole | 0.09 mol, 10 g | NC1=CC=NN1CC | C5H9N3
reactant | K2CO3 | 0.09 mol, 12.3 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Cu(OAc)2 | 1 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-(1-ethylpyrazol-5-yl)-5-bromoanthranilic acid | 12.6 g | C(C)N1N=CC=C1NC=1C(C(=O)O)=CC(=CC1)Br | C12H12BrN3O2
